US05693442
Synthesis of methyl acrylate/methyl methacrylate/methacrylic acid (MaMmE) 70/25/5 wt % latex primer
A sol-gel formulation was prepared as follows. Glacial acetic acid (108.0 grams, 1.80 mol) was added dropwise to a previously prepared, stirred mixture of propyltrimethoxysilane (489.6 grams, 2.97 mol) and 3-glycidoxypropyltrimethoxysilane (122.4 grams, 0.518 mol), followed by the dropwise addition of 3-aminopropyltrimethoxysilane (49.6 grams, 0.277 mol). The acidified silanes were then hydrolyzed by the dropwise addition of excess water (312.0 grams, 17.3 mol). The following day, the clear solution was diluted to approximately 20 wt % solids by the dropwise addition of ethanol (1046 grams) and allowed to stir in a covered vessel for 1 week. DC-190 (16 grams) was subsequently added as a plasticizer, followed by the addition of lithium iodide (9.43 grams, 0.0704 mol) to provide a "sol-gel solution".

reactant | acetic acid | 1.80 mol, 108.0 grams | C(C)(=O)O | C2H4O2
reactant | propyltrimethoxysilane | 2.97 mol, 489.6 grams | C(CC)[Si](OC)(OC)OC | C6H16O3Si
reactant | 3-glycidoxypropyltrimethoxysilane | 0.518 mol, 122.4 grams | C(C1CO1)OCCC[Si](OC)(OC)OC | C9H20O5Si
reactant | 3-aminopropyltrimethoxysilane | 0.277 mol, 49.6 grams | NCCC[Si](OC)(OC)OC | C6H17NO3Si
reactant | water | 17.3 mol, 312.0 grams | O | H2O
reactant | lithium iodide | 0.0704 mol, 9.43 grams | [I-].[Li+]
solvent | ethanol | 1046 grams | C(C)O | C2H6O
product | methyl acrylate methyl methacrylate methacrylic acid | C(C=C)(=O)OC.C(C(=C)C)(=O)OC.C(C(=C)C)(=O)O | InChI=1S/C5H8O2.2C4H6O2/c1-4(2)5(6)7-3;1-3-4(5)6-2;1-3(2)4(5)6/h1H2,2-3H3;3H,1H2,2H3;1H2,2H3,(H,5,6)
